US07399767B2
7-Methoxy-3-(6-methoxy-pyridin-3-yl)-4-methyl-2H-chromen-2-ol
A solution of 7-methoxy-3-(6-methoxy-pyridin-3-yl)-4-methyl-chromen-2-one (430 mg, 1.45 mmol, 1 eq) in toluene (5 mL) was cooled to −78° C. in a 100 mL 3-neck round bottom flask under nitrogen. To the reaction mixture was slowly added a toluene solution of diisobutylaluminum hydride (1.5 mL of 1.0 M, mmol, 1.1 eq), with the temperature of the reaction mixture maintained at less than −70° C. The reaction was stirred for 1 hour, quenched with addition of methanol (0.5 mL). The resulting solution was diluted with dichloromethane, the solution washed with a saturated solution of Rochelle salt, then washed with brine, dried on anhydrous sodium sulphate, filtered and evaporated to yield the crude compound as a yellow solid. The solid was purified by column chromatography using a hexane:ethyl acetate mixture (1:1) to yield the title product as a yellow solid.

reactant | 7-methoxy-3-(6-methoxy-pyridin-3-yl)-4-methyl-chromen-2-one | 1.45 mmol, 430 mg, 1 eq | COC1=CC=C2C(=C(C(OC2=C1)=O)C=1C=NC(=CC1)OC)C | C17H15NO4
reactant | diisobutylaluminum hydride | 1.0 M, 1.5 mL, 1.1 eq | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Methoxy-3-(6-methoxy-pyridin-3-yl)-4-methyl-2H-chromen-2-ol | COC1=CC=C2C(=C(C(OC2=C1)O)C=1C=NC(=CC1)OC)C | C17H17NO4
